US08486967B2
4-(2-Nitropyridin-3-yl)morpholine
To a solution of 3-bromo-2-nitropyridine (207 mg, 1 mmol) in DMSO (2 mL) was added at room temperature under stirring and under an atmosphere of nitrogen morpholine (95.8 mg, 95.8 μL, 1.1 mmol), tetrabutyl ammonium iodide (18.5 mg, 50.0 μmol) and potassium carbonate (152 mg, 1.1 mmol). The reaction was stirred at 80° C. over night. Water was added and the aqueous phase was extracted twice with diethyl ether. The combined organic layers were washed with water and with saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and the solvent was evaporated under reduced pressure. The title compound was obtained as a yellow oil (57 mg, 27%) after column chromatography on silica gel using a gradient from heptane/ethyl acetate 4:1 to 1:1 (v/v) as eluent.

reactant | 3-bromo-2-nitropyridine | 1 mmol, 207 mg | BrC=1C(=NC=CC1)[N+](=O)[O-] | C5H3BrN2O2
reactant | potassium carbonate | 1.1 mmol, 152 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | tetrabutyl ammonium iodide | 50.0 μmol, 18.5 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 4-(2-Nitropyridin-3-yl)morpholine | [N+](=O)([O-])C1=NC=CC=C1N1CCOCC1 | C9H11N3O3
